US08252781B2
Preparation of 4,4-dimethyl-1-(naphthalen-1-ylmethyl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 1-(bromomethyl)naphthalene were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a colorless oil.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 1-(bromomethyl)naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 4,4-dimethyl-1-(naphthalen-1-ylmethyl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one | CC1(C(N(N1CC1=CC=CC2=CC=CC=C12)C1C2CC3CC(CC1C3)C2)=O)C | C25H30N2O
